US04062844
2-(4-Cyanopiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline
A mixture of 10.0 g. (0.033 mole) of 2-(1-piperazinyl)-4-amino-6,7-dimethoxyquinazoline, prepared as described in U.S. Pat. No. 3,511,836, 3.54 g. (0.033 mole) of cyanogen bromide and 33 ml. of N,N-dimethylformamide was stirred under nitrogen at room temperature (20°-25° C.) for 6 hours. The precipitated solid was recovered by filtration, washed with ether and air dried to afford 11.6 g. (85%) of the hydrobromide salt of the title compound. The salt was partitioned between 250 ml. of aqueous saturated sodium bicarbonate solution and 500 ml. of chloroform. The layers were separated and the chloroform layer concentrated in vacuo to afford the free base as a dry foam, 8.3 g. (80%); M.P. 215° C. The mass spectrum reveals a molecular ion peak at M/e 314. Infrared spectrum (CHCl3): peak at 4.5 μ (CN).

reactant | 2-(1-piperazinyl)-4-amino-6,7-dimethoxyquinazoline | 0.033 mole | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | cyanogen bromide | 0.033 mole | N#CBr | CBrN
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(4-Cyanopiperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline | C(#N)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C15H18N6O2
